US05773388
Synthesis of 4-Chlorodifluoromethyl-5-(1-hydroxyethyl)pyrimidine (Compound No. 101)
0.4 g of 5-acetyl-4-chlorodifluoromethylpyrimidine was dissolved in 10 ml of dry diethyl ether, then, an excess of a borane ammonia complex was added under cooling with ice, and the mixture was stirred overnight at room temperature. After addition of water, extraction with diethyl ether was carried out. The ether layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.32 g of the desired product as a viscous liquid. nD19.9 1.4899

reactant | 5-acetyl-4-chlorodifluoromethylpyrimidine | 0.4 g | C(C)(=O)C=1C(=NC(=NC1)C(F)F)Cl | C7H5ClF2N2O
reactant | water | O | H2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 4-Chlorodifluoromethyl-5-(1-hydroxyethyl)pyrimidine | 0.32 g | ClC1=NC(=NC=C1C(C)O)C(F)F | C7H7ClF2N2O
